* C:\Users\vvuon\Documents\LTspice_Projects\Flyback_Converter\Demo_Flyback_AVGD_Model.asc
* Generated by LTspice 24.1.10 for Windows.
RL2 OUT 0 {RL}
C5 N024 0 {Cout/7}
E9 OUT2 0 OUT 0 1.0
R11 IN N004 75m
E10 1_AVG_CUSTOM 0 IN N003 1.0
E11 2_AVG_CUSTOM 0 0 N001 1.0
D3 N036 N011 1N4148
C6 IN N011 1000p
R12 IN N011 50
E12 Diode2 0 N001 N002 1.0
R14 N003 N036 10
RSNS V_ISNS 0 {RSNS}
D18 0 N037 CDZV16B
R48 IN N037 1k
Q6 IN N037 VCC_AVG 0 2N2222
C14 VCC_AVG 0 10µ
C15 VCC_AVG 0 1µ
R50 VCC_AVG 0 50k
S2 0 N049 N050 0 SW
R52 OUT N049 {15/0.1}
V6 N050 0 PULSE(0 5 67m 100n 100n 1m)
Lp1 N003 N005 {Lm}
Ls1 N006 0 {Ls}
V2 NC_01 0 PULSE(100m {VIN} 5m 10m)
R1 INJ FB_SEC 10k
R3 FB_SEC 0 10k
C2 N055 IN_M_OPTO 0.1µ
R6 FB_SEC N055 150k
RIN_OPTO INJ IN_P_OPTO 1k
R9 N045 INJ 1
C3 FB_SEC IN_M_OPTO 0.01µ
VINJ N045 OUT 0 AC 1
X§X2 0 IN_M_OPTO FB_SEC TL431
V3 IN 0 {VIN}
R20 N012 N024 {RESR_COUT}
D1 N002 N007 1N4148
C4 N025 0 {Cout/7}
R21 N013 N025 {RESR_COUT}
C8 N026 0 {Cout/7}
R22 N014 N026 {RESR_COUT}
C10 N027 0 {Cout/7}
R23 N015 N027 {RESR_COUT}
C12 N028 0 {Cout/7}
R24 N016 N028 {RESR_COUT}
C13 N029 0 {Cout/7}
R26 N017 N029 {RESR_COUT}
C16 N030 0 {Cout/7}
R27 N018 N030 {RESR_COUT}
L1 N004 N005 1.5µ
C17 N008 0 {Cout/7}
R2 IN N008 {RESR_COUT}
C18 N009 0 {Cout/7}
R30 IN N009 {RESR_COUT}
C19 N010 0 {Cout/7}
R31 IN N010 {RESR_COUT}
R32 OUT N007 0.1
R33 OUT 0 {{VOUT}/10m}
L2 OUT N012 {LESL_CPOL}
L3 OUT N013 {LESL_CPOL}
L4 OUT N014 {LESL_CPOL}
L5 OUT N015 {LESL_CPOL}
L6 OUT N016 {LESL_CPOL}
L7 OUT N017 {LESL_CPOL}
L8 OUT N018 {LESL_CPOL}
C20 N031 0 10µ
R34 N019 N031 10m
L9 OUT N019 {LESL_CCER}
C21 N032 0 10µ
R35 N020 N032 10m
L10 OUT N020 {LESL_CCER}
C22 N033 0 10µ
R36 N021 N033 10m
L11 OUT N021 {LESL_CCER}
C23 N034 0 10µ
R37 N022 N034 10m
L12 OUT N022 {LESL_CCER}
C24 N035 0 10µ
R38 N023 N035 10m
L13 OUT N023 {LESL_CCER}
R39 N001 N006 20m
C9 V_ISNS_FILT 0 100p
R7 V_ISNS_FILT V_ISNS 1k
C11 N041 0 1000p
R15 VREF_5V N041 8.6k
C26 N043 FB 0.1µ
R17 COMP N043 30k
C27 COMP FB 20p
Q3 0 N044 COMP 0 2N2907
C28 N044 0 1µ
R18 N044 0 30k
R25 VREF_5V N044 10k
X§X4 IN_P_OPTO VREF_5V OPTO_OUT IN_M_OPTO Opto_Two_Pole params: CTR={CTR} VF_D={VD_OPTO} RS_D={RS_OPTO} fc_Hz={fc_OPTO}
ROUT_OPTO OPTO_OUT 0 1k
R5 FB OPTO_OUT 4.99k
R4 GATE_DRVR_OUT GATE 10
X§U2 N040 N038 OUT 0 N039 LT1498 ;§pnba In+)In-)V+)V-)OUT
Q1 I_DIODE_INST N039 N038 0 2N2907
R8 N007 N038 100
R10 OUT N040 100
R13 I_DIODE_INST 0 100
C1 N042 0 {Cfilt}
R16 I_DIODE_INST N042 {Rfilt}
C7 I_DIODE_AVG 0 {Cfilt}
R19 N042 I_DIODE_AVG {Rfilt}
X§U3 N056 N053 OUT 0 ISNS_OPTO_CURR_IN LT1498 ;§pnba In+)In-)V+)V-)OUT
R29 N056 INJ 1k
R40 0 N056 1k
R41 ISNS_OPTO_CURR_IN N053 1k
R42 N053 IN_P_OPTO 1k
X§U4 N048 N046 VCC_AVG 0 N046 LT1498 ;§pnba In+)In-)V+)V-)OUT
R28 GATE N048 14k
R43 N048 0 1k
C25 N047 0 {Cfilt}
R44 N046 N047 {Rfilt}
C29 N048 0 100p
C30 DUTY_CYCLE_AVG_MEAS 0 {Cfilt}
R45 N047 DUTY_CYCLE_AVG_MEAS {Rfilt}
X§U5 V_ISNS N052 VCC_AVG 0 N051 LT1498 ;§pnba In+)In-)V+)V-)OUT
C31 N054 0 {Cfilt}
R46 N051 N054 {Rfilt}
C32 ISW_AVG 0 {Cfilt}
R47 N054 ISW_AVG {Rfilt}
R49 0 N052 1k
R51 N051 N052 9k
X§X1 FB V_ISNS_FILT N041 VCC_AVG IN 0 COMP GATE_DRVR_OUT 0 VREF_5V UC2845_AVG params: L={Lm} Fsw={Fs} RSENSE={RSNS} CS_RATIO=1.0 Td_GDRV={0.25*{Ts}}
X§X3 GATE N003 V_ISNS N002 N001 ccm-dcm2 params: L={Lm} Fsw={Fs} n={Ns_div_Np}

* block symbol definitions
.subckt TL431 A K REF
Q1 K REF N006 0 NPN_TL431
Q2 N003 N003 N001 0 PNP_TL431
Q3 N004 N004 REF 0 NPN_TL431
R1 N006 N009 3.28k
Q4 N004 N003 N002 0 PNP_TL431
R2 K N001 800
R3 K N002 800
Q5 N003 N006 N008 0 NPN_TL431
R4 N008 N011 4k
Q6 N011 N010 A 0 NPN_TL431
C1 N011 N010 10p
Q7 N012 N012 A 0 NPN_TL431 AREA = 3
Q8 N010 N012 N014 0 NPN_TL431 AREA = 5.0777
R5 N009 N012 2.4k
R6 N009 N010 7.2k
R7 N014 A 800
Q9 N004 N013 A 0 NPN_TL431 AREA = 1
R8 N012 N013 1k
R9 A 0 10G
D1 A N004 1N4148
C2 K N004 10p
Q10 K N004 N005 0 NPN_TL431
R10 N005 N007 150
R11 N007 A 10k
Q11 K N007 A 0 NPN_TL431
D2 A K 1N4148
.model NPN_TL431 NPN
.model PNP_TL431 PNP
.ends TL431

.subckt Opto_Two_Pole A C E K
DIN N006 K Din_Opto
R4 E 0 10G
C1 N002 0 220p
R16 N002 N001 10k
Q1 C N005 E 0 NPN_OPTO
B2 N001 0 V={I(SNS_OPTO_IN)}
V§SNS_OPTO_IN A N006 0
R19 K 0 10G
R1 A 0 10G
R2 C 0 10G
G1 0 N005 N004 0 {{CTR}/{BETA_OPTO}}
E1 N003 0 N002 0 1.0
C2 N004 0 220p
R3 N004 N003 10k
R5 N005 0 10Meg
.param CTR = 1.0
.param RS_D = 10.0
.param VF_D = 1.2
.param fc_Hz = 100k
.model Din_Opto D(Ron={RS_D} Roff=10Meg Vfwd={VF_D} Vrev=200 Is=2.52n Rs=.568 N=1.752 Cjo=4p M=.4 tt=20n Iave=200m Vpk=75)
.param BETA_OPTO=200
.model NPN_OPTO NPN(BF={BETA_OPTO}IS=1E-14 VAF=100 IKF=0.3 XTB=1.5 BR=3 CJC=8E-12 CJE=25E-12 TR=100E-9 TF=400E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2 Vceo=30 Icrating=800m)
.param Cp = {2*PI*{fc_Hz}*10k}
.ends Opto_Two_Pole

.subckt UC2845_AVG FB ISENSE RT_CT VCC VINDUCTOR+_w_SW_ON VINDUCTOR-_w_SW_ON COMP OUT RTN VREF
Q1 0 0 0 0 NPN_UC2845
Q2 0 0 0 0 PNP_UC2845
S1 N002 VCC VCC 0 SW_UC2845
D1 RTN VCC UDZV33B
X§U2 N012 FB VBIAS RTN N009 LT1498 ;§pnba In+)In-)V+)V-)OUT
D2 COMP N009 1N4148
I1 VBIAS COMP 500µ
D3 COMP VBIAS Dideal_UC2845
R5 VBIAS N012 5k
R6 N012 RTN 5k
D4 COMP N010 Dtyp_UC2845
D5 N010 N011 Dtyp_UC2845
R7 N011 ERR_AMP_OUT 100k
R8 ERR_AMP_OUT RTN 50k
R10 RT_CT 0 1G
E1 DUTY_OUT_PEAK_CM_CTL RTN ERR_AMP_OUT SCALED_IPEAK 10k
D6 N004 N015 Dideal_UC2845
V1 N015 RTN {Max_Duty}
D7 RTN N004 Dideal_UC2845
E2 N003 RTN DUTY_OUT_PEAK_CM_CTL RTN 1
R11 N003 N004 100
E3 N005 RTN N004 RTN 2.0
R12 N006 N005 50
T1 N007 RTN N006 RTN Td={Td_GDRV} Z0=50
R13 N007 RTN 50
RConv1 RTN 0 10G
E5 VLP 0 VINDUCTOR+_w_SW_ON RTN 1
RDum2 VINDUCTOR+_w_SW_ON RTN 1G
E6 VLM 0 VINDUCTOR-_w_SW_ON RTN 1
RDum3 VINDUCTOR-_w_SW_ON RTN 1G
E7 I_Avg 0 ISENSE RTN {1.0/{RSENSE}}
RDum4 ISENSE RTN 1G
B1 I_Ripple 0 V={ ( (1/2)*V(DUTY_OUT_PEAK_CM_CTL)* (1/{Fsw}) ) * ( abs(V(VLP,VLM))/({L}) ) }
B2 I_Peak_DCM 0 V= { ( 2*V(I_Ripple) ) }
B3 I_Peak_CCM 0 V= { (V(I_Ripple) )+ V(I_Avg) }
B4 I_Peak RTN V= MAX(V(I_Peak_DCM), V(I_Peak_CCM))
E8 SCALED_IPEAK RTN I_Peak RTN {{CS_RATIO}*{RSENSE}}
BMode1 Mode 0 V= IF(V(I_Peak_CCM) > V(I_Peak_DCM), 1, 0)
E9 OUT RTN N007 RTN 1.0
R1 N002 N008 10k
E4 N013 RTN N008 RTN 1.0
R2 N008 RTN 10k
R3 VCC RTN 1Meg
E10 N001 RTN N008 RTN 1.0
D8 N008 N016 Dideal_UC2845
VREF_5V N016 RTN 5
VSNS1 N013 N014 0
VSNS2 N001 VBIAS 0
B5 VCC RTN I={I(VSNS1)+I(VSNS2)}
R4 N014 VREF 20
R9 N004 RTN 10k
R14 COMP RTN 100k
.model NPN_UC2845 NPN
.model PNP_UC2845 PNP
.model SW_UC2845 SW(Ron=10m, Roff=100Meg, Vt={UVLO_THRES}, Vh={-{UVLO_HYST}})
.param UVLO_ON_THRESH = 8.4
.param UVLO_OFF_THRESH = 7.6
.param UVLO_THRES = 0.5*({UVLO_ON_THRESH}+{UVLO_OFF_THRESH})
.param UVLO_HYST = {0.5*(abs(UVLO_ON_THRESH-UVLO_OFF_THRESH))}
.model Dideal_UC2845 D(Ron=1u Roff=10Meg Vfwd=10m Vrev=500)
.model Dtyp_UC2845 D(Ron=10m Roff=10Meg Vfwd=0.7 Vrev=200)
.param L = 10u
.param Fsw = 100k
.param Tsw = {1.0/{Fsw}}
.param Td_GDRV = {0.1*{Tsw}}
.param Max_Duty = 0.44
.param RSENSE = 100m
.param CS_RATIO = 1.0
.ends UC2845_AVG

.subckt ccm-dcm2 5 1 2 3 4
B§Eu1 N001 0 V={MAX(v(5), v(5)*v(5)/(v(5)*v(5)+2*{L}*{n}*{Fsw}*i(Va)/v(3,4)))}
B§Et 1 2 V={(1-v(u))*v(3,4)/v(u)/{n}}
B§Gd 4 3 I={(1-v(u))*i(Et)/v(u)/{n}}
B§Ga 0 N003 I={MAX(i(Et),0)}
Va N003 N004 0
Rdummy N004 0 10
E1 N002 0 N001 0 1.0
R2 u N002 1
D1 u N005 Dideal
V1 N005 0 1
R1 5 0 10Meg
R4 2 0 1G
R5 3 0 1G
.param L=10u
.param n = 1
.param Fsw = 100k
.ends ccm-dcm2

.model D D
.lib C:\Users\vvuon\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\vvuon\AppData\Local\LTspice\lib\cmp\standard.bjt
* Load Step
K2 Lp1 Ls1 1
* .nodeset V(3) = 5\n.nodeset V(INJ2) = 5\n.nodeset V(FB_SEC) = 2.5\n.nodeset V(IN_P_OPTO) = 3.4\n.nodeset V(IN_M_OPTO) = 2.7\n.nodeset V(OPTO_EMITTER) = 2.5001\n.nodeset V(FB) = 2.5\n.nodeset V(5) ={Dcalc}
* .tran 0 500m 0 startup
.model SW SW(Ron=10m, Roff=10Meg, Vt=2.5, Vh=-0.1)
.param Fs = 96k
.param Ts = {1.0/{Fs}}
.param D = 0.224
.param Cout = 650u
.param RL = 2.0
.param VIN = 30
.param VOUT =5.05
.param Lm = 9u
.param Ns_div_Np = {1/2}
.param Ls = ({Ns_div_Np}*{Ns_div_Np}*{Lm})
.param L = {Lm}
.param Fsw = {Fs}
.param n={Ns_div_Np}
.param Lprim_ideal = 0.1
.param Lsec_ideal = {{n}*{n}*{Lprim_ideal}}
.param Rsns = 0.1
.MODEL 1N5811   D      (
+         IS = 2.23137E-8
+         RS = 0.0679124
+          N = 1.5116445
+         TT = 2.263E-8
+        CJO = 1.48755E-10
+         VJ = 0.5130456
+          M = 0.4810824
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = 0.998001
+         BV = 1E5
+        IBV = 1E-10
+ )
*$
.options
+ Gmin = 1e-7
+ Abstol = 1e-7
+ Reltol = 0.001
+ Chgtol = 1e-8
+ Trtol = 2
+ vntol = 0.001
+ Sstol = 0.001
+ MinDeltaGmin = 0.0001
+ Method = Gear
.model Dideal D(Ron=1u Roff=10Meg Vfwd=1u Vrev=200)
.ac dec 1k 1 10Meg
.param Dcalc = ({VOUT}/{VIN})/(SQRT(({RL}*{Ts})/(2*{Lm})))
.param VD_OPTO = 0.7
.param CTR={2.25}
.param RS_OPTO = 10.0
.param fc_OPTO = 74k
.savebias dc_operating_point.txt time=400m
.loadbias dc_operating_point.txt
.model Din_Opto D(Ron=1u Roff=10Meg Vfwd=1.2 Vrev=200)
.param RESR_COUT=50m
.param LESL_CCER=5n
.param LESL_CPOL=10n
.param Td_GATEDRV = {0.1*{Ts}}
* Parameters for Low-Pass Filters
*for TLM of Averaged Values
.param Rfilt = 10k
.param Cfilt = 2200p
.step temp list 25 50 85 125
.lib LTC.lib
.backanno
.end
